US07064124B2
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoyl]morpholine
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoyl]morpholine (1.27 g, 2.59 mmol) was dissolved in ethanol (50 ml) and the resulting solution was added to an ethanol suspension (5 ml) of 5% Pd—C (0.200 g) and stirred at room temperature for 16 hours in a hydrogen stream. The reaction solution was filtered, the filtrate was concentrated and the obtained residue was recrystallized from ether to obtain the titled compound (1.00 g, 2.49 mmol, 96%).

reactant | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-benzyloxybenzoyl]morpholine | 2.59 mmol, 1.27 g | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCOCC3)C2)OCC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C30H35NO7
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd—C | 0.200 g | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-hydroxybenzoyl]morpholine | 2.49 mmol, 1.00 g, 96% | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCOCC3)C2)O)C(=C(C1OC)OC)OC)C | C23H29NO7
